US07919506B2
Step C: (3,5-Bis-trifluoromethyl-benzyl)-[2-(2-cyclopentyl-1-methoxy-ethyl)-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)-amine
1-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-2-cyclopentylethanol was converted to the methyl ether with methyl iodide using a procedure analogous to that used for the preparation of N-(2-(cyclohexyl(methoxy)methyl)-5-trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine. LC-MS Calc. 609.5, found 610.5 (M+H). Examples 71-73 were prepared by an analogous series of reactions from 2-((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazole-5-yl)amino)methyl)-4-(trifluoromethyl)benzonitrile using the appropriate Grignard reagent and alkylating agent

reactant | 1-(2-(((3,5-bis(trifluoromethyl)benzyl)(2-methyl-2H-tetrazol-5-yl)amino)methyl)-4-(trifluoromethyl)phenyl)-2-cyclopentylethanol | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(CC2CCCC2)O)C=C(C1)C(F)(F)F)(F)F | C26H26F9N5O
reactant | methyl ether | COC | C2H6O
reactant | methyl iodide | CI | CH3I
reactant | N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | FC(C=1C=C(CNC=2N=NN(N2)C)C=C(C1)C(F)(F)F)(F)F | C11H9F6N5
reactant | 4-(trifluoromethyl)benzonitrile | FC(C1=CC=C(C#N)C=C1)(F)F | C8H4F3N
product | (3,5-Bis-trifluoromethyl-benzyl)-[2-(2-cyclopentyl-1-methoxy-ethyl)-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)-amine | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(CC2CCCC2)OC)C=C(C1)C(F)(F)F)(F)F | C27H28F9N5O
